US05374641
Ethyl 4-[3-oxo-3-(3-pyridyl)-1-propenyl]phenoxyacetate (3.85 g) and 1.15 g of 10% Pd--C were suspended in 300 ml of ethanol, and stirred in hydrogen atmosphere at ambient temperature and pressure for three hours. The reaction mixture was filtered, and the filtrate was evaporated under reduced pressure. The residue obtained was subjected to chromatography on a silica gel column, and from a fraction eluted with methylene chloride was obtained 1.95 g of ethyl 4-[3-oxo-3-(3-pyridyl)propyl]phenoxyacetate.

reactant | Ethyl 4-[3-oxo-3-(3-pyridyl)-1-propenyl]phenoxyacetate | 3.85 g | O=C(C=CC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C18H17NO4
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
product | ethyl 4-[3-oxo-3-(3-pyridyl)propyl]phenoxyacetate | 1.95 g | O=C(CCC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C18H19NO4
